US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, 3-trifluoromethylaniline (195 mg, 1.2 mmol) and pyridine-2-carboxaldehyde (128 mg, 1.2 mmol) were employed to obtain 2-[2-(3-trifluoromethylphenyl)-2H-tetrazol-5-yl]pyridine as an orange solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 3-trifluoromethylaniline | 1.2 mmol, 195 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | pyridine-2-carboxaldehyde | 1.2 mmol, 128 mg | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(3-trifluoromethylphenyl)-2H-tetrazol-5-yl]pyridine | FC(C=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1)(F)F | C13H8F3N5
